** Name: SimpleOpAmp44

.MACRO SimpleOpAmp44 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=32e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=22e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=6e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=3e-6 W=268e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=242e-6
mNormalTransistorNmos6 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=242e-6
mNormalTransistorNmos7 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=332e-6
mNormalTransistorNmos8 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=332e-6
mNormalTransistorPmos9 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=55e-6
mNormalTransistorPmos10 out FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=2e-6 W=321e-6
mNormalTransistorPmos11 FirstStageYout1 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=3e-6 W=268e-6
mNormalTransistorPmos12 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=598e-6
mNormalTransistorPmos13 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=598e-6
mNormalTransistorPmos14 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=597e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp44

** Expected Performance Values: 
** Gain: 81 dB
** Power consumption: 14.6951 mW
** Area: 7280 (mu_m)^2
** Transit frequency: 73.0261 MHz
** Transit frequency with error factor: 73.0258 MHz
** Slew rate: 94.6661 V/mu_s
** Phase margin: 85.3708°
** CMRR: 128 dB
** VoutMax: 3.12001 V
** VoutMin: 0.840001 V
** VcmMax: 3.61001 V
** VcmMin: -0.339999 V


** Expected Currents: 
** NormalTransistorPmos: -92.5179 muA
** NormalTransistorNmos: 907.037 muA
** NormalTransistorNmos: 1413.21 muA
** NormalTransistorNmos: 907.038 muA
** NormalTransistorNmos: 1413.21 muA
** NormalTransistorPmos: -907.036 muA
** NormalTransistorPmos: -907.037 muA
** DiodeTransistorPmos: -907.036 muA
** NormalTransistorPmos: -1012.33 muA
** NormalTransistorPmos: -506.167 muA
** NormalTransistorPmos: -506.167 muA
** DiodeTransistorNmos: 92.5171 muA
** DiodeTransistorNmos: 92.5181 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.82301  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.21801  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.629001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 3.68601  V
** out1: 2.55701  V
** sourceGCC1: 0.602001  V
** sourceGCC2: 0.602001  V
** sourceTransconductance: 3.28101  V


.END