** Name: SimpleOpAmp54

.MACRO SimpleOpAmp54 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=14e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=7e-6 W=21e-6
mDiodeTransistorPmos3 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=9e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=478e-6
mNormalTransistorNmos6 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=318e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=318e-6
mNormalTransistorNmos8 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=478e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=211e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=211e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=7e-6 W=460e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=121e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=18e-6
mNormalTransistorPmos14 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=570e-6
mNormalTransistorPmos15 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=570e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=600e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp54

** Expected Performance Values: 
** Gain: 80 dB
** Power consumption: 13.7331 mW
** Area: 11987 (mu_m)^2
** Transit frequency: 83.8121 MHz
** Transit frequency with error factor: 83.812 MHz
** Slew rate: 79.5188 V/mu_s
** Phase margin: 55.004°
** CMRR: 137 dB
** VoutMax: 3.56001 V
** VoutMin: 0.440001 V
** VcmMax: 4.93001 V
** VcmMin: 0.940001 V


** Expected Currents: 
** NormalTransistorPmos: -246.394 muA
** NormalTransistorPmos: -36.6529 muA
** NormalTransistorPmos: -814.528 muA
** NormalTransistorPmos: -1221.79 muA
** NormalTransistorPmos: -814.528 muA
** NormalTransistorPmos: -1221.79 muA
** NormalTransistorNmos: 814.529 muA
** NormalTransistorNmos: 814.528 muA
** NormalTransistorNmos: 814.529 muA
** NormalTransistorNmos: 814.528 muA
** NormalTransistorNmos: 814.53 muA
** NormalTransistorNmos: 407.266 muA
** NormalTransistorNmos: 407.266 muA
** DiodeTransistorNmos: 246.395 muA
** DiodeTransistorNmos: 36.6521 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.04301  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.05001  V
** inputVoltageBiasXXnXX2: 0.786001  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 0.444001  V
** innerTransistorStack2Load2: 0.445001  V
** out1: 0.650001  V
** sourceGCC1: 4.00501  V
** sourceGCC2: 4.00501  V
** sourceTransconductance: 1.94401  V


.END