** Name: SimpleOpAmp79

.MACRO SimpleOpAmp79 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=22e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=11e-6
mDiodeTransistorPmos3 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=7e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=4e-6 W=583e-6
mNormalTransistorNmos6 FirstStageYinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=587e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=159e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=159e-6
mNormalTransistorNmos9 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=4e-6 W=583e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=186e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=186e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance inputVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=4e-6 W=564e-6
mNormalTransistorPmos13 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=449e-6
mNormalTransistorPmos14 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=146e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=9e-6
mNormalTransistorPmos16 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=449e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=586e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=586e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp79

** Expected Performance Values: 
** Gain: 83 dB
** Power consumption: 9.72801 mW
** Area: 14286 (mu_m)^2
** Transit frequency: 73.3981 MHz
** Transit frequency with error factor: 73.3983 MHz
** Slew rate: 58.8105 V/mu_s
** Phase margin: 55.004°
** CMRR: 135 dB
** VoutMax: 3.69001 V
** VoutMin: 0.470001 V
** VcmMax: 5 V
** VcmMin: 1.41001 V


** Expected Currents: 
** NormalTransistorPmos: -211.738 muA
** NormalTransistorPmos: -13.0609 muA
** NormalTransistorPmos: -496.182 muA
** NormalTransistorPmos: -850.442 muA
** NormalTransistorPmos: -496.182 muA
** NormalTransistorPmos: -850.442 muA
** NormalTransistorNmos: 496.183 muA
** NormalTransistorNmos: 496.182 muA
** NormalTransistorNmos: 496.183 muA
** NormalTransistorNmos: 496.182 muA
** NormalTransistorNmos: 708.522 muA
** NormalTransistorNmos: 708.521 muA
** NormalTransistorNmos: 354.262 muA
** NormalTransistorNmos: 354.262 muA
** DiodeTransistorNmos: 211.739 muA
** DiodeTransistorNmos: 13.0601 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.03701  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.07601  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 4.03501  V
** outVoltageBiasXXnXX2: 0.611001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.427001  V
** innerTransistorStack1Load2: 0.470001  V
** innerTransistorStack2Load2: 0.471001  V
** out1: 0.676001  V
** sourceGCC1: 3.95101  V
** sourceGCC2: 3.95101  V
** sourceTransconductance: 1.94501  V


.END