** Name: SimpleOpAmp89

.MACRO SimpleOpAmp89 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=18e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=8e-6 W=45e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=5e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourceTransconductance sourceTransconductance pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=560e-6
mNormalTransistorNmos6 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=8e-6 W=30e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=281e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=281e-6
mNormalTransistorNmos9 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=560e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=3e-6 W=34e-6
mNormalTransistorPmos11 out outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=482e-6
mNormalTransistorPmos12 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=3e-6 W=12e-6
mNormalTransistorPmos13 sourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=535e-6
mNormalTransistorPmos14 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=482e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=593e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=593e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp89

** Expected Performance Values: 
** Gain: 93 dB
** Power consumption: 6.02001 mW
** Area: 8320 (mu_m)^2
** Transit frequency: 73.9691 MHz
** Transit frequency with error factor: 73.9689 MHz
** Slew rate: 106.208 V/mu_s
** Phase margin: 55.004°
** CMRR: 146 dB
** VoutMax: 3.84001 V
** VoutMin: 0.300001 V
** VcmMax: 3.63001 V
** VcmMin: -0.0599999 V


** Expected Currents: 
** NormalTransistorNmos: 16.1921 muA
** NormalTransistorPmos: -24.4559 muA
** NormalTransistorPmos: -69.2599 muA
** NormalTransistorPmos: -537.081 muA
** NormalTransistorPmos: -537.081 muA
** NormalTransistorNmos: 537.082 muA
** NormalTransistorNmos: 537.081 muA
** NormalTransistorNmos: 537.082 muA
** NormalTransistorNmos: 537.081 muA
** NormalTransistorPmos: -1090.35 muA
** NormalTransistorPmos: -537.08 muA
** NormalTransistorPmos: -537.08 muA
** DiodeTransistorNmos: 24.4551 muA
** DiodeTransistorNmos: 69.2591 muA
** DiodeTransistorPmos: -16.1929 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.85401  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.705001  V
** out: 2.5  V
** outVoltageBiasXXnXX0: 0.631001  V
** outVoltageBiasXXpXX1: 2.11901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.28801  V
** innerTransistorStack1Load2: 0.150001  V
** innerTransistorStack2Load2: 0.150001  V
** out1: 0.555001  V
** sourceGCC1: 3.03501  V
** sourceGCC2: 3.03501  V


.END