** Name: SimpleOpAmp13

.MACRO SimpleOpAmp13 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=7e-6
mDiodeTransistorPmos2 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 sourcePmos sourcePmos pmos4 L=1e-6 W=26e-6
mDiodeTransistorPmos3 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=7e-6 W=26e-6
mNormalTransistorNmos4 out in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=77e-6
mNormalTransistorNmos5 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=77e-6
mNormalTransistorNmos6 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=30e-6
mNormalTransistorPmos7 out FirstStageYout1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=7e-6 W=26e-6
mNormalTransistorPmos8 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack2Load1 sourcePmos sourcePmos pmos4 L=1e-6 W=26e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp13

** Expected Performance Values: 
** Gain: 53 dB
** Power consumption: 0.261001 mW
** Area: 2104 (mu_m)^2
** Transit frequency: 3.72301 MHz
** Transit frequency with error factor: 3.72281 MHz
** Slew rate: 4.21114 V/mu_s
** Phase margin: 77.9223°
** CMRR: 97 dB
** VoutMax: 3.66001 V
** VoutMin: 0.440001 V
** VcmMax: 3.5 V
** VcmMin: 0.840001 V


** Expected Currents: 
** DiodeTransistorPmos: -21.1279 muA
** NormalTransistorPmos: -21.1289 muA
** NormalTransistorPmos: -21.1279 muA
** DiodeTransistorPmos: -21.1289 muA
** NormalTransistorNmos: 42.2531 muA
** NormalTransistorNmos: 21.1271 muA
** NormalTransistorNmos: 21.1271 muA
** DiodeTransistorNmos: 9.99901 muA


** Expected Voltages: 
** ibias: 0.664001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.21701  V
** innerTransistorStack2Load1: 4.22201  V
** out1: 3.09101  V
** sourceTransconductance: 1.91501  V


.END