** Name: SimpleOpAmp32

.MACRO SimpleOpAmp32 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=9e-6 W=41e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=377e-6
mDiodeTransistorPmos3 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=4e-6 W=42e-6
mNormalTransistorNmos4 out in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=192e-6
mNormalTransistorNmos5 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=192e-6
mNormalTransistorNmos6 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=9e-6 W=377e-6
mNormalTransistorNmos7 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=41e-6
mNormalTransistorPmos8 out FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=3e-6 W=27e-6
mNormalTransistorPmos9 FirstStageYout1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=4e-6 W=42e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp32

** Expected Performance Values: 
** Gain: 55 dB
** Power consumption: 0.507001 mW
** Area: 11013 (mu_m)^2
** Transit frequency: 9.62601 MHz
** Transit frequency with error factor: 9.62627 MHz
** Slew rate: 9.07255 V/mu_s
** Phase margin: 85.9437°
** CMRR: 99 dB
** VoutMax: 3.41001 V
** VoutMin: 0.880001 V
** VcmMax: 3.81001 V
** VcmMin: 1.28001 V


** Expected Currents: 
** NormalTransistorPmos: -45.7129 muA
** NormalTransistorPmos: -45.7129 muA
** DiodeTransistorPmos: -45.7129 muA
** NormalTransistorNmos: 91.4231 muA
** DiodeTransistorNmos: 91.4221 muA
** NormalTransistorNmos: 45.7121 muA
** NormalTransistorNmos: 45.7121 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA


** Expected Voltages: 
** ibias: 1.13101  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.566001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 3.94001  V
** out1: 2.84101  V
** sourceTransconductance: 1.94501  V
** inner: 0.565001  V


.END